US05591762
4'-[(2-Cyclopropyl-4-methyl-6-(1-(2-hydroxyethyl)-imidazol-4-yl)-benzimidazol-1-yl)-methyl]-biphenyl-2-carboxylic Acid
A solution of 500 mg (1.0 mMol) of 4'-[(2-cyclopropyl-4-methyl-6-(1-(2-methoxyethyl)-imidazol-4-yl)-benzimidazol-1-yl)-methyl]-biphenyl-2-carboxylic acid and 1.5 g (6.0 mMol) of boron tribromide in 50 ml of methylene chloride is stirred for 16 hours at ambient temperature, then mixed with about 30 ml of water and stirred vigorously for another 10 minutes. This mixture is evaporated to dryness and the residue is refluxed in about 40 ml of ethanol for 10 minutes. The mixture is evaporated to dryness once more, the residue is dissolved in about 30 ml of 2N ammonia solution and this solution is adjusted to pH 5-6 with 2N acetic acid. The crude product precipitated is suction filtered and purified by column chromatography (80 g silica gel; eluant:methylene chloride/methanol=4:1).

reactant | 4'-[(2-cyclopropyl-4-methyl-6-(1-(2-methoxyethyl)-imidazol-4-yl)-benzimidazol-1-yl)-methyl]-biphenyl-2-carboxylic acid | 1.0 mMol, 500 mg | C1(CC1)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C=C(C=C2C)C=2N=CN(C2)CCOC | C31H30N4O3
reactant | boron tribromide | 6.0 mMol, 1.5 g | B(Br)(Br)Br | BBr3
reactant | water | about 30 ml | O | H2O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 4'-[(2-Cyclopropyl-4-methyl-6-(1-(2-hydroxyethyl)-imidazol-4-yl)-benzimidazol-1-yl)-methyl]-biphenyl-2-carboxylic Acid | C1(CC1)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C=C(C=C2C)C=2N=CN(C2)CCO | C30H28N4O3
